.subckt line_switches out en_b[31] en_b[30] en_b[29] en_b[28] en_b[27] en_b[26] en_b[25] en_b[24]
+ en_b[23] en_b[22] en_b[21] en_b[20] en_b[19] en_b[18] en_b[17] en_b[16] en_b[15] en_b[14] en_b[13] en_b[12]
+ en_b[11] en_b[10] en_b[9] en_b[8] en_b[7] en_b[6] en_b[5] en_b[4] en_b[3] en_b[2] en_b[1] en_b[0] s_en_b
+ s_en VDD VSS in[31] in[30] in[29] in[28] in[27] in[26] in[25] in[24] in[23] in[22] in[21] in[20] in[19]
+ in[18] in[17] in[16] in[15] in[14] in[13] in[12] in[11] in[10] in[9] in[8] in[7] in[6] in[5] in[4] in[3]
+ in[2] in[1] in[0]
*.PININFO out:O en_b[31:0]:I s_en_b:I s_en:I VDD:I VSS:I in[31:0]:I
x28 in[10] net1 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x29 net1 out net33 en_b[10] VDD VSS switch_5t
x31 in[11] net2 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x32 net2 out net34 en_b[11] VDD VSS switch_5t
x34 in[12] net3 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x35 net3 out net35 en_b[12] VDD VSS switch_5t
x37 in[13] net4 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x38 net4 out net36 en_b[13] VDD VSS switch_5t
x40 in[14] net5 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x41 net5 out net37 en_b[14] VDD VSS switch_5t
x43 in[15] net6 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x44 net6 out net38 en_b[15] VDD VSS switch_5t
x46 in[16] net7 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x47 net7 out net39 en_b[16] VDD VSS switch_5t
x49 in[17] net8 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x50 net8 out net40 en_b[17] VDD VSS switch_5t
x52 in[18] net9 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x53 net9 out net41 en_b[18] VDD VSS switch_5t
x55 in[19] net10 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x56 net10 out net42 en_b[19] VDD VSS switch_5t
x2 in[4] net11 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x3 net11 out net43 en_b[4] VDD VSS switch_5t
x5 in[5] net12 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x6 net12 out net44 en_b[5] VDD VSS switch_5t
x8 in[6] net13 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x9 net13 out net45 en_b[6] VDD VSS switch_5t
x11 in[7] net14 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x12 net14 out net46 en_b[7] VDD VSS switch_5t
x14 in[8] net15 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x15 net15 out net47 en_b[8] VDD VSS switch_5t
x17 in[9] net16 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x18 net16 out net48 en_b[9] VDD VSS switch_5t
x20 in[1] net17 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x21 net17 out net49 en_b[1] VDD VSS switch_5t
x23 in[2] net18 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x24 net18 out net50 en_b[2] VDD VSS switch_5t
x26 in[3] net19 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x27 net19 out net51 en_b[3] VDD VSS switch_5t
x59 in[0] net20 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x60 net20 out net52 en_b[0] VDD VSS switch_5t
x1 in[20] net21 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x62 net21 out net53 en_b[20] VDD VSS switch_5t
x64 in[21] net22 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x65 net22 out net54 en_b[21] VDD VSS switch_5t
x67 in[22] net23 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x68 net23 out net55 en_b[22] VDD VSS switch_5t
x70 in[23] net24 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x71 net24 out net56 en_b[23] VDD VSS switch_5t
x73 in[24] net25 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x74 net25 out net57 en_b[24] VDD VSS switch_5t
x76 in[25] net26 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x77 net26 out net58 en_b[25] VDD VSS switch_5t
x79 in[26] net27 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x80 net27 out net59 en_b[26] VDD VSS switch_5t
x82 in[27] net28 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x83 net28 out net60 en_b[27] VDD VSS switch_5t
x85 in[28] net29 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x86 net29 out net61 en_b[28] VDD VSS switch_5t
x88 in[29] net30 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x89 net30 out net62 en_b[29] VDD VSS switch_5t
x91 in[30] net31 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x92 net31 out net63 en_b[30] VDD VSS switch_5t
x94 in[31] net32 s_en s_en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x95 net32 out net64 en_b[31] VDD VSS switch_5t
x97 en_b[0] VSS VSS VDD VDD net52 sky130_fd_sc_hd__inv_1
x22 en_b[1] VSS VSS VDD VDD net49 sky130_fd_sc_hd__inv_1
x25 en_b[2] VSS VSS VDD VDD net50 sky130_fd_sc_hd__inv_1
x58 en_b[3] VSS VSS VDD VDD net51 sky130_fd_sc_hd__inv_1
x4 en_b[4] VSS VSS VDD VDD net43 sky130_fd_sc_hd__inv_1
x7 en_b[5] VSS VSS VDD VDD net44 sky130_fd_sc_hd__inv_1
x10 en_b[6] VSS VSS VDD VDD net45 sky130_fd_sc_hd__inv_1
x13 en_b[7] VSS VSS VDD VDD net46 sky130_fd_sc_hd__inv_1
x16 en_b[8] VSS VSS VDD VDD net47 sky130_fd_sc_hd__inv_1
x19 en_b[31] VSS VSS VDD VDD net64 sky130_fd_sc_hd__inv_1
x30 en_b[30] VSS VSS VDD VDD net63 sky130_fd_sc_hd__inv_1
x33 en_b[29] VSS VSS VDD VDD net62 sky130_fd_sc_hd__inv_1
x36 en_b[28] VSS VSS VDD VDD net61 sky130_fd_sc_hd__inv_1
x39 en_b[27] VSS VSS VDD VDD net60 sky130_fd_sc_hd__inv_1
x42 en_b[26] VSS VSS VDD VDD net59 sky130_fd_sc_hd__inv_1
x45 en_b[25] VSS VSS VDD VDD net58 sky130_fd_sc_hd__inv_1
x48 en_b[24] VSS VSS VDD VDD net57 sky130_fd_sc_hd__inv_1
x51 en_b[23] VSS VSS VDD VDD net56 sky130_fd_sc_hd__inv_1
x54 en_b[22] VSS VSS VDD VDD net55 sky130_fd_sc_hd__inv_1
x57 en_b[20] VSS VSS VDD VDD net53 sky130_fd_sc_hd__inv_1
x63 en_b[19] VSS VSS VDD VDD net42 sky130_fd_sc_hd__inv_1
x69 en_b[18] VSS VSS VDD VDD net41 sky130_fd_sc_hd__inv_1
x72 en_b[17] VSS VSS VDD VDD net40 sky130_fd_sc_hd__inv_1
x75 en_b[16] VSS VSS VDD VDD net39 sky130_fd_sc_hd__inv_1
x78 en_b[15] VSS VSS VDD VDD net38 sky130_fd_sc_hd__inv_1
x81 en_b[14] VSS VSS VDD VDD net37 sky130_fd_sc_hd__inv_1
x84 en_b[13] VSS VSS VDD VDD net36 sky130_fd_sc_hd__inv_1
x87 en_b[12] VSS VSS VDD VDD net35 sky130_fd_sc_hd__inv_1
x90 en_b[11] VSS VSS VDD VDD net34 sky130_fd_sc_hd__inv_1
x93 en_b[10] VSS VSS VDD VDD net33 sky130_fd_sc_hd__inv_1
x96 en_b[9] VSS VSS VDD VDD net48 sky130_fd_sc_hd__inv_1
x61 en_b[21] VSS VSS VDD VDD net54 sky130_fd_sc_hd__inv_1
.ends

* expanding   symbol:  transmission_gate.sym # of pins=4
* sym_path: /scratch/users/lyt1314/aloe-sky130/analog_mux/schematic/transmission_gate.sym
* sch_path: /scratch/users/lyt1314/aloe-sky130/analog_mux/schematic/transmission_gate.sch
.subckt transmission_gate  in out en en_b  VDD  VSS     N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
*.PININFO in:B out:B en:I en_b:I
XM1 out en in VSS sky130_fd_pr__nfet_01v8 L='L_N' W='W_N' nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult='N' m='N' 
XM2 out en_b in VDD sky130_fd_pr__pfet_01v8 L='L_P' W='W_P' nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult='N' m='N' 
.ends


* expanding   symbol:  switch_5t.sym # of pins=4
* sym_path: /scratch/users/lyt1314/aloe-sky130/analog_mux/schematic/switch_5t.sym
* sch_path: /scratch/users/lyt1314/aloe-sky130/analog_mux/schematic/switch_5t.sch
.subckt switch_5t  in out en en_b  VDD  VSS
*.PININFO in:B out:B en:I en_b:I
x1 in net1 en en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
x2 net1 out en en_b VDD VSS transmission_gate N=1 W_N=5.3 L_N=0.15 W_P=13.7 L_P=0.15
XM1 net1 en_b VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
.ends

** flattened .save nodes
.end
